US07186738B2
Intermediate 1: Acetic acid (5R)-3-(3-fluoro-phenyl)-2-oxo-oxazolidin-5-ylmethyl ester
(5R)-3-(3-Fluorophenyl)-5-hydroxymethyloxazolidin-2-one (40 g, 0.189 M, see Upjohn WO 94-13649) was suspended by stirring in dry dichloromethane (400 ml) under nitrogen. Triethylamine (21 g, 0.208 M) and 4-dimethylaminopyridine (0.6 g, 4.9 mmol) were added, followed by dropwise addition of acetic anhydride (20.3 g, 0.199 M) over 30 minutes, and stirring continued at ambient temperature for 18 hours. Saturated aqueous sodium bicarbonate (250 ml) was added, the organic phase separated, washed with 2% sodium dihydrogen phosphate, dried (magnesium sulfate), filtered and evaporated to give the desired product (49.6 g) as an oil.

reactant | (5R)-3-(3-Fluorophenyl)-5-hydroxymethyloxazolidin-2-one | 0.189 M, 40 g | FC=1C=C(C=CC1)N1C(O[C@H](C1)CO)=O | C10H10FNO3
reactant | Triethylamine | 0.208 M, 21 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.199 M, 20.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.9 mmol, 0.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Acetic acid (5R)-3-(3-fluoro-phenyl)-2-oxo-oxazolidin-5-ylmethyl ester | 49.6 g | FC=1C=C(C=CC1)N1C(O[C@H](C1)COC(C)=O)=O | C12H12FNO4
